* Created by KLayout
*** My special header ***

* cell HHTT2602
* pin P1
* pin P10
* pin P11
* pin P12
* pin P13
* pin P14
* pin P15
* pin P2
* pin P3
* pin P4
* pin P5
* pin P6
* pin P7
* pin P9
* pin VDD
* pin VSS
.SUBCKT HHTT2602 P1 P10 P11 P12 P13 P14 P15 P2 P3 P4 P5 P6 P7 P9 VDD VSS
* cell instance $1 r0 *1 0,0
X$1 P13 P11 P4 P15 P14 P5 VDD P2 P3 P7 P1 P6 P9 P12 P10 VSS OSS_FRAME
* cell instance $9 m90 *1 716.15,0
X$9 \$17 \$16 \$24 VDD \$18 \$51 \$41 \$53 \$78 VSS TSD
* cell instance $36 m45 *1 -623.05,47.1
X$36 \$50 \$40 \$67 \$65 VDD VSS amp1
* device instance $1 r90 *1 -908,-587.95 F_RS
XR$1 P6 \$28 F_RS R=1.85833333333 L=22.3u W=12u A=267.6p P=68.6u m=1
* device instance $2 r90 *1 -908,-187.95 F_RS
XR$2 P5 \$29 F_RS R=1.85833333333 L=22.3u W=12u A=267.6p P=68.6u m=1
* device instance $3 m45 *1 908,-187.95 F_RS
XR$3 P12 \$41 F_RS R=1.85833333333 L=22.3u W=12u A=267.6p P=68.6u m=1
* device instance $4 m90 *1 -212.05,908 F_RS
XR$4 P1 \$67 F_RS R=1.85833333333 L=22.3u W=12u A=267.6p P=68.6u m=1
* device instance $5 m90 *1 587.95,908 F_RS
XR$5 P15 \$78 F_RS R=1.85833333333 L=22.3u W=12u A=267.6p P=68.6u m=1
* device instance $12 r180 *1 168.4,-894 F_RS
XR$12 \$16 P9 F_RS R=5.11666666667 L=245.6u W=12u A=736.8p P=146.8u m=1
* device instance $13 r180 *1 568.4,-894 F_RS
XR$13 \$17 P10 F_RS R=5.11666666667 L=245.6u W=12u A=736.8p P=146.8u m=1
* device instance $14 m45 *1 894,-568.4 F_RS
XR$14 \$18 P11 F_RS R=5.11666666667 L=245.6u W=12u A=736.8p P=146.8u m=1
* device instance $16 r180 *1 -698.6,-894 F_RS
XR$16 \$24 P7 F_RS R=5.11666666667 L=245.6u W=12u A=736.8p P=146.8u m=1
* device instance $22 r90 *1 -894,231.6 F_RS
XR$22 \$40 P4 F_RS R=5.11666666667 L=245.6u W=12u A=736.8p P=146.8u m=1
* device instance $25 m45 *1 908,231.6 F_RS
XR$25 P13 \$51 F_RS R=5.11666666667 L=245.6u W=12u A=736.8p P=146.8u m=1
* device instance $26 m45 *1 894,631.6 F_RS
XR$26 \$53 P14 F_RS R=5.11666666667 L=245.6u W=12u A=736.8p P=146.8u m=1
* device instance $35 m90 *1 -631.6,908 F_RS
XR$35 P2 \$65 F_RS R=5.11666666667 L=245.6u W=12u A=736.8p P=146.8u m=1
* device instance $40 r90 *1 -894,698.6 F_RS
XR$40 \$50 P3 F_RS R=5.11666666667 L=245.6u W=12u A=736.8p P=146.8u m=1
* device instance $42 r0 *1 -849.9,-397.5 DP
D$42 \$29 \$28 DP A=12.96p P=14.4u
.ENDS HHTT2602

* cell amp1
* pin vn
* pin vp
* pin out
* pin nbias
* pin VDD
* pin vss
.SUBCKT amp1 vn vp out nbias VDD vss
* device instance $1 r0 *1 140.2,52.4 DN
D$1 vss vn DN A=12.96p P=14.4u
* device instance $2 r0 *1 63.2,52.4 DN
D$2 vss vp DN A=12.96p P=14.4u
* device instance $3 r0 *1 157.85,174.3 DN
D$3 vss \$44 DN A=12.96p P=14.4u
* device instance $5 r270 *1 121.55,221.1 F_RS
XR$5 pg \$44 F_RS R=9.83333333333 L=590u W=6u A=354p P=130u m=1
* device instance $14 r0 *1 170.4,145.8 PMOS
XM$14 VDD pg out VDD PMOS L=2u W=50u AS=140p AD=140p PS=156u PD=156u
* device instance $24 r0 *1 100.2,144.5 PMOS
XM$24 VDD pcm pg VDD PMOS L=10u W=4u AS=11.2p AD=11.2p PS=13.6u PD=13.6u
* device instance $25 r0 *1 80.6,144.5 PMOS
XM$25 VDD pcm pcm VDD PMOS L=10u W=4u AS=11.2p AD=11.2p PS=13.6u PD=13.6u
* device instance $26 r0 *1 61,144.5 PMOS
XM$26 VDD VDD VDD VDD PMOS L=10u W=8u AS=22.4p AD=22.4p PS=27.2u PD=27.2u
* device instance $28 r0 *1 95.5,97.9 NMOS
XM$28 pcm vn ntail vss NMOS L=5u W=20u AS=56p AD=56p PS=62.4u PD=62.4u
* device instance $32 r0 *1 107.9,97.9 NMOS
XM$32 ntail vp pg vss NMOS L=5u W=20u AS=56p AD=56p PS=62.4u PD=62.4u
* device instance $36 r0 *1 175.4,99.1 NMOS
XM$36 vss nbias out vss NMOS L=5u W=50u AS=140p AD=140p PS=156u PD=156u
* device instance $46 r0 *1 190,85.3 NMOS
XM$46 vss nbias ntail vss NMOS L=5u W=5u AS=14p AD=14p PS=15.6u PD=15.6u
* device instance $47 r0 *1 204.6,85.3 NMOS
XM$47 vss nbias nbias vss NMOS L=5u W=5u AS=14p AD=14p PS=15.6u PD=15.6u
* device instance $48 r0 *1 70.7,82.7 NMOS
XM$48 vss vss vss vss NMOS L=5u W=50u AS=140p AD=140p PS=156u PD=156u
* device instance $58 r0 *1 275.8,225.4 F_CSIO
XC$58 \$44 out vss F_CSIO C=2.145624e-12 A=3576.04p P=239.2u X=59.7999993257
+ Y=59.8000006743 m=2
.ENDS amp1

* cell TSD
* pin IBIAS
* pin EN
* pin T_CMP
* pin VDD
* pin T_DIO
* pin VTH
* pin MONOUT
* pin VTL
* pin TSDOUT
* pin VSS
.SUBCKT TSD IBIAS EN T_CMP VDD T_DIO VTH MONOUT VTL TSDOUT VSS
* cell instance $32 r0 *1 0,0
X$32 \$5 \$35 \$36 \$24 CMPOUT VDD VSS TSD_COMP
* cell instance $130 m0 *1 151.8,353.5
X$130 VDD CMPO \$36 VTL VSS TSD_ASW1
* cell instance $131 r180 *1 93,353.5
X$131 VDD XCMPO \$36 VTH VSS TSD_ASW1
* cell instance $132 r0 *1 101.6,166.7
X$132 VDD T_DIOI MONOUT VS_TMP VSS TSD_ASW1
* cell instance $133 r0 *1 336.5,166.7
X$133 VDD T_CMPI MONOUT \$35 VSS TSD_ASW1
* cell instance $134 m90 *1 500.5,166.7
X$134 VDD XT_CMP \$35 VS_TMP VSS TSD_ASW1
* device instance $1 r0 *1 471.4,116.1 PMOS
XM$1 VDD \$19 \$5 VDD PMOS L=8u W=10u AS=28p AD=28p PS=25.6u PD=25.6u
* device instance $2 r0 *1 380.4,116.1 PMOS
XM$2 VDD VDD VDD VDD PMOS L=8u W=20u AS=56p AD=56p PS=51.2u PD=51.2u
* device instance $3 r0 *1 416.8,116.1 PMOS
XM$3 VDD \$19 VS_TMP VDD PMOS L=8u W=60u AS=168p AD=168p PS=153.6u PD=153.6u
* device instance $10 r0 *1 453.2,116.1 PMOS
XM$10 VDD \$19 \$19 VDD PMOS L=8u W=10u AS=28p AD=28p PS=25.6u PD=25.6u
* device instance $11 m90 *1 540.75,63.1 PMOS
XM$11 \$10 EN VDD VDD PMOS L=2u W=20u AS=56p AD=56p PS=51.2u PD=51.2u
* device instance $13 m90 *1 540.75,224.8 PMOS
XM$13 XT_CMP T_CMP VDD VDD PMOS L=2u W=20u AS=56p AD=56p PS=51.2u PD=51.2u
* device instance $15 m90 *1 513.95,63.1 PMOS
XM$15 \$24 \$10 VDD VDD PMOS L=2u W=20u AS=56p AD=56p PS=51.2u PD=51.2u
* device instance $16 m90 *1 513.95,224.8 PMOS
XM$16 T_CMPI XT_CMP VDD VDD PMOS L=2u W=20u AS=56p AD=56p PS=51.2u PD=51.2u
* device instance $19 m0 *1 399.75,295.4 PMOS
XM$19 VDD XXTSDOUT XTSDOUT VDD PMOS L=2u W=160u AS=448p AD=448p PS=409.6u
+ PD=409.6u
* device instance $25 m0 *1 116.15,295.4 PMOS
XM$25 XCMPO CMPOUT VDD VDD PMOS L=2u W=20u AS=56p AD=56p PS=51.2u PD=51.2u
* device instance $27 m0 *1 382.35,295.4 PMOS
XM$27 XXTSDOUT CMPOUT VDD VDD PMOS L=2u W=40u AS=112p AD=112p PS=102.4u
+ PD=102.4u
* device instance $32 m0 *1 142.95,295.4 PMOS
XM$32 CMPO XCMPO VDD VDD PMOS L=2u W=20u AS=56p AD=56p PS=51.2u PD=51.2u
* device instance $43 r0 *1 65.95,224.8 PMOS
XM$43 \$72 T_DIO VDD VDD PMOS L=2u W=20u AS=56p AD=56p PS=51.2u PD=51.2u
* device instance $44 r0 *1 92.75,224.8 PMOS
XM$44 T_DIOI \$72 VDD VDD PMOS L=2u W=20u AS=56p AD=56p PS=51.2u PD=51.2u
* device instance $47 r0 *1 365.2,116.1 PMOS
XM$47 VDD \$24 \$19 VDD PMOS L=2u W=10u AS=28p AD=28p PS=25.6u PD=25.6u
* device instance $48 r0 *1 191.35,411.6 PMOS
XM$48 TSDOUT XTSDOUT VDD VDD PMOS L=2u W=480u AS=1344p AD=1344p PS=1228.8u
+ PD=1228.8u
* device instance $96 r0 *1 419.85,21.1 NMOS
XM$96 VSS IBIAS \$19 VSS NMOS L=4u W=6u AS=16.8p AD=16.8p PS=17.6u PD=17.6u
* device instance $97 r0 *1 405.65,21.1 NMOS
XM$97 VSS IBIAS IBIAS VSS NMOS L=4u W=6u AS=16.8p AD=16.8p PS=17.6u PD=17.6u
* device instance $98 r0 *1 391.45,21.1 NMOS
XM$98 VSS VSS VSS VSS NMOS L=4u W=12u AS=33.6p AD=33.6p PS=35.2u PD=35.2u
* device instance $100 m90 *1 550.15,16.8 NMOS
XM$100 VSS EN \$10 VSS NMOS L=2u W=6u AS=16.8p AD=16.8p PS=17.6u PD=17.6u
* device instance $101 m90 *1 550.15,178.5 NMOS
XM$101 VSS T_CMP XT_CMP VSS NMOS L=2u W=6u AS=16.8p AD=16.8p PS=17.6u PD=17.6u
* device instance $102 m90 *1 523.35,16.8 NMOS
XM$102 VSS \$10 \$24 VSS NMOS L=2u W=6u AS=16.8p AD=16.8p PS=17.6u PD=17.6u
* device instance $103 m0 *1 348.75,341.7 NMOS
XM$103 VSS CMPOUT XXTSDOUT VSS NMOS L=2u W=12u AS=33.6p AD=33.6p PS=35.2u
+ PD=35.2u
* device instance $105 m0 *1 106.75,341.7 NMOS
XM$105 VSS CMPOUT XCMPO VSS NMOS L=2u W=6u AS=16.8p AD=16.8p PS=17.6u PD=17.6u
* device instance $106 m90 *1 523.35,178.5 NMOS
XM$106 VSS XT_CMP T_CMPI VSS NMOS L=2u W=6u AS=16.8p AD=16.8p PS=17.6u PD=17.6u
* device instance $107 r0 *1 56.55,178.5 NMOS
XM$107 VSS T_DIO \$72 VSS NMOS L=2u W=6u AS=16.8p AD=16.8p PS=17.6u PD=17.6u
* device instance $108 r0 *1 83.35,178.5 NMOS
XM$108 VSS \$72 T_DIOI VSS NMOS L=2u W=6u AS=16.8p AD=16.8p PS=17.6u PD=17.6u
* device instance $109 m0 *1 133.55,341.7 NMOS
XM$109 VSS XCMPO CMPO VSS NMOS L=2u W=6u AS=16.8p AD=16.8p PS=17.6u PD=17.6u
* device instance $110 m0 *1 472.35,341.7 NMOS
XM$110 VSS XXTSDOUT XTSDOUT VSS NMOS L=2u W=48u AS=134.4p AD=134.4p PS=140.8u
+ PD=140.8u
* device instance $118 r0 *1 378.25,21.1 NMOS
XM$118 VSS \$10 IBIAS VSS NMOS L=2u W=6u AS=16.8p AD=16.8p PS=17.6u PD=17.6u
* device instance $119 r0 *1 447.25,21.1 NMOS
XM$119 VSS \$10 VS_TMP VSS NMOS L=2u W=6u AS=16.8p AD=16.8p PS=17.6u PD=17.6u
* device instance $120 r0 *1 351.35,365.3 NMOS
XM$120 VSS XTSDOUT TSDOUT VSS NMOS L=2u W=144u AS=403.2p AD=403.2p PS=422.4u
+ PD=422.4u
* device instance $144 m90 *1 561.5,-3.6 DN
D$144 VSS EN DN A=12.96p P=14.4u
* device instance $145 m90 *1 572.5,9.4 DN
D$145 VSS T_CMP DN A=12.96p P=14.4u
* device instance $146 m90 *1 373.9,144.5 DN
D$146 VSS \$24 DN A=12.96p P=14.4u
* device instance $147 m90 *1 324.8,264.8 DN
D$147 VSS CMPOUT DN A=12.96p P=14.4u
* device instance $148 m90 *1 22.15,195.9 DN
D$148 VSS T_DIO DN A=12.96p P=14.4u
* device instance $149 m90 *1 90.8,264.8 DN
D$149 VSS XCMPO DN A=12.96p P=14.4u
* device instance $150 r0 *1 442,67.2 DP
D$150 VS_TMP \$27 DP A=12.96p P=14.4u
* device instance $151 r0 *1 394.2,67.2 DP
D$151 \$27 VSS DP A=12.96p P=14.4u
.ENDS TSD

* cell OSS_FRAME
* pin P13
* pin P11
* pin P4
* pin P15
* pin P14
* pin P5
* pin VDD
* pin P2
* pin P3
* pin P7
* pin P1
* pin P6
* pin P9
* pin P12
* pin P10
* pin VSS
.SUBCKT OSS_FRAME P13 P11 P4 P15 P14 P5 VDD P2 P3 P7 P1 P6 P9 P12 P10 VSS
* cell instance $1 r90 *1 1040,200
X$1 P13 VDD VSS OSS_ESD_5V_ANA
* cell instance $2 r90 *1 1040,-600
X$2 P11 VDD VSS OSS_ESD_5V_ANA
* cell instance $3 m45 *1 -1040,200
X$3 P4 VDD VSS OSS_ESD_5V_ANA
* cell instance $4 r180 *1 600,1040
X$4 P15 VDD VSS OSS_ESD_5V_ANA
* cell instance $5 m135 *1 1040,600
X$5 P14 VDD VSS OSS_ESD_5V_ANA
* cell instance $6 r270 *1 -1040,-200
X$6 P5 VDD VSS OSS_ESD_5V_ANA
* cell instance $10 m45 *1 -1040,-600
X$10 P6 VDD VSS OSS_ESD_5V_ANA
* cell instance $11 m135 *1 1040,-200
X$11 P12 VDD VSS OSS_ESD_5V_ANA
* cell instance $12 m90 *1 600,-1040
X$12 P10 VDD VSS OSS_ESD_5V_ANA
* cell instance $14 m0 *1 -600,1040
X$14 P2 VDD VSS OSS_ESD_5V_ANA
* cell instance $15 r270 *1 -1040,600
X$15 P3 VDD VSS OSS_ESD_5V_ANA
* cell instance $16 r180 *1 -200,1040
X$16 P1 VDD VSS OSS_ESD_5V_ANA
* cell instance $17 m0 *1 200,1040
X$17 VDD VSS OSS_ESD_5V_VDD
* cell instance $18 r0 *1 -600,-1040
X$18 P7 VDD VSS OSS_ESD_5V_ANA
* cell instance $19 r0 *1 200,-1040
X$19 P9 VDD VSS OSS_ESD_5V_ANA
* cell instance $20 m90 *1 -200,-1040
X$20 VDD VSS OSS_ESD_5V_VSS
.ENDS OSS_FRAME

* cell TSD_ASW1
* pin VDD
* pin EN
* pin B
* pin A
* pin VSS
.SUBCKT TSD_ASW1 VDD EN B A VSS
* device instance $1 r0 *1 66.15,58.1 PMOS
XM$1 A XEN|Y B VDD PMOS L=2u W=20u AS=56p AD=56p PS=51.2u PD=51.2u
* device instance $3 r0 *1 12.55,58.1 PMOS
XM$3 VDD EN XEN|Y VDD PMOS L=2u W=20u AS=56p AD=56p PS=51.2u PD=51.2u
* device instance $4 r0 *1 39.35,58.1 PMOS
XM$4 VDD XEN|Y ENI|Y VDD PMOS L=2u W=20u AS=56p AD=56p PS=51.2u PD=51.2u
* device instance $7 r0 *1 12.55,11.8 NMOS
XM$7 VSS EN XEN|Y VSS NMOS L=2u W=6u AS=16.8p AD=16.8p PS=17.6u PD=17.6u
* device instance $8 r0 *1 39.35,11.8 NMOS
XM$8 VSS XEN|Y ENI|Y VSS NMOS L=2u W=6u AS=16.8p AD=16.8p PS=17.6u PD=17.6u
* device instance $9 r0 *1 66.15,11.8 NMOS
XM$9 A ENI|Y B VSS NMOS L=2u W=6u AS=16.8p AD=16.8p PS=17.6u PD=17.6u
.ENDS TSD_ASW1

* cell TSD_COMP
* pin IBIAS
* pin INP
* pin INN
* pin EN
* pin OUT
* pin VDD
* pin VSS
.SUBCKT TSD_COMP IBIAS INP INN EN OUT VDD VSS
* device instance $1 m0 *1 207.05,114.9 PMOS
XM$1 VDD \$112 \$5 VDD PMOS L=8u W=60u AS=168p AD=168p PS=153.6u PD=153.6u
* device instance $7 m0 *1 298.05,114.9 PMOS
XM$7 VDD \$112 \$7 VDD PMOS L=8u W=30u AS=84p AD=84p PS=76.8u PD=76.8u
* device instance $10 m0 *1 285.25,70.9 PMOS
XM$10 VDD \$7 \$21 VDD PMOS L=8u W=10u AS=28p AD=28p PS=25.6u PD=25.6u
* device instance $11 m0 *1 321.65,70.9 PMOS
XM$11 VDD \$21 OUT VDD PMOS L=8u W=30u AS=84p AD=84p PS=76.8u PD=76.8u
* device instance $14 m0 *1 334.45,114.9 PMOS
XM$14 VDD VDD VDD VDD PMOS L=8u W=30u AS=84p AD=84p PS=76.8u PD=76.8u
* device instance $15 m0 *1 225.25,114.9 PMOS
XM$15 VDD \$112 \$112 VDD PMOS L=8u W=10u AS=28p AD=28p PS=25.6u PD=25.6u
* device instance $18 m0 *1 125.2,70.9 PMOS
XM$18 \$14 EN VDD VDD PMOS L=2u W=20u AS=56p AD=56p PS=51.2u PD=51.2u
* device instance $20 m0 *1 151.5,70.9 PMOS
XM$20 \$16 \$14 VDD VDD PMOS L=2u W=20u AS=56p AD=56p PS=51.2u PD=51.2u
* device instance $22 m0 *1 168.3,70.9 PMOS
XM$22 VDD \$16 \$112 VDD PMOS L=2u W=10u AS=28p AD=28p PS=25.6u PD=25.6u
* device instance $23 m0 *1 25.8,74.8 PMOS
XM$23 \$5 INP \$26 \$5 PMOS L=2u W=80u AS=224p AD=224p PS=182.4u PD=182.4u
* device instance $27 m0 *1 54,74.8 PMOS
XM$27 \$12 INN \$5 \$5 PMOS L=2u W=80u AS=224p AD=224p PS=182.4u PD=182.4u
* device instance $31 r0 *1 16.4,32.6 PMOS
XM$31 \$5 \$5 \$5 \$5 PMOS L=2u W=80u AS=224p AD=224p PS=182.4u PD=182.4u
* device instance $35 r0 *1 241.85,21.1 NMOS
XM$35 VSS IBIAS \$112 VSS NMOS L=4u W=6u AS=16.8p AD=16.8p PS=17.6u PD=17.6u
* device instance $36 r0 *1 227.65,21.1 NMOS
XM$36 VSS IBIAS IBIAS VSS NMOS L=4u W=6u AS=16.8p AD=16.8p PS=17.6u PD=17.6u
* device instance $37 r0 *1 213.45,21.1 NMOS
XM$37 VSS VSS VSS VSS NMOS L=4u W=12u AS=33.6p AD=33.6p PS=35.2u PD=35.2u
* device instance $39 r0 *1 163.65,21.1 NMOS
XM$39 VSS \$14 IBIAS VSS NMOS L=2u W=6u AS=16.8p AD=16.8p PS=17.6u PD=17.6u
* device instance $40 r0 *1 115.8,21.1 NMOS
XM$40 VSS EN \$14 VSS NMOS L=2u W=6u AS=16.8p AD=16.8p PS=17.6u PD=17.6u
* device instance $41 r0 *1 320.05,21.1 NMOS
XM$41 VSS \$7 \$21 VSS NMOS L=2u W=6u AS=16.8p AD=16.8p PS=17.6u PD=17.6u
* device instance $42 r0 *1 200.25,21.1 NMOS
XM$42 VSS \$14 \$7 VSS NMOS L=2u W=6u AS=16.8p AD=16.8p PS=17.6u PD=17.6u
* device instance $43 r0 *1 293.65,21.1 NMOS
XM$43 VSS \$26 \$7 VSS NMOS L=2u W=6u AS=16.8p AD=16.8p PS=17.6u PD=17.6u
* device instance $44 r0 *1 356.65,21.1 NMOS
XM$44 VSS \$21 OUT VSS NMOS L=2u W=18u AS=50.4p AD=50.4p PS=52.8u PD=52.8u
* device instance $47 r0 *1 281.45,21.1 NMOS
XM$47 VSS \$12 \$26 VSS NMOS L=2u W=6u AS=16.8p AD=16.8p PS=17.6u PD=17.6u
* device instance $48 r0 *1 269.25,21.1 NMOS
XM$48 VSS \$12 \$12 VSS NMOS L=2u W=6u AS=16.8p AD=16.8p PS=17.6u PD=17.6u
* device instance $49 r0 *1 188.05,21.1 NMOS
XM$49 VSS \$14 \$12 VSS NMOS L=2u W=6u AS=16.8p AD=16.8p PS=17.6u PD=17.6u
* device instance $50 r0 *1 175.85,21.1 NMOS
XM$50 VSS \$14 \$26 VSS NMOS L=2u W=6u AS=16.8p AD=16.8p PS=17.6u PD=17.6u
* device instance $51 r0 *1 142,21.1 NMOS
XM$51 VSS \$14 \$16 VSS NMOS L=2u W=6u AS=16.8p AD=16.8p PS=17.6u PD=17.6u
* device instance $52 r0 *1 305.85,21.1 NMOS
XM$52 VSS VSS VSS VSS NMOS L=2u W=6u AS=16.8p AD=16.8p PS=17.6u PD=17.6u
.ENDS TSD_COMP

* cell OSS_ESD_5V_VDD
* pin PAD,VDD
* pin VSS
.SUBCKT OSS_ESD_5V_VDD PAD|VDD VSS
* device instance $1 r270 *1 -130,65.5 PMOS
XM$1 VSS PAD|VDD PAD|VDD PAD|VDD PMOS L=2u W=500u AS=3523.04p AD=3523.04p
+ PS=689.36u PD=689.36u
* device instance $11 r90 *1 130,-65.5 NMOSE
XM$11 PAD|VDD VSS VSS VSS NMOSE L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
.ENDS OSS_ESD_5V_VDD

* cell OSS_ESD_5V_VSS
* pin VDD
* pin PAD,VSS
.SUBCKT OSS_ESD_5V_VSS VDD PAD|VSS
* device instance $1 r90 *1 -130,-65.5 PMOS
XM$1 PAD|VSS VDD VDD VDD PMOS L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
* device instance $11 r270 *1 130,65.5 NMOSE
XM$11 VDD PAD|VSS PAD|VSS PAD|VSS NMOSE L=2u W=500u AS=3523.04p AD=3523.04p
+ PS=689.36u PD=689.36u
.ENDS OSS_ESD_5V_VSS

* cell OSS_ESD_5V_ANA
* pin PAD
* pin VDD
* pin VSS
.SUBCKT OSS_ESD_5V_ANA PAD VDD VSS
* device instance $1 r90 *1 -130,-65.5 PMOS
XM$1 PAD VDD VDD VDD PMOS L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
* device instance $11 r90 *1 130,-65.5 NMOSE
XM$11 PAD VSS VSS VSS NMOSE L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
.ENDS OSS_ESD_5V_ANA
